US09388199B2
Were prepared according to the procedure described in Tetrahedron, 1998, 54, 981-986 from (S)-2,5-dihydro-pyrrole-1,2-dicarboxylic acid dibenzyl ester. To a solution of (S)-2,5-dihydro-pyrrole-1,2-dicarboxylic acid dibenzyl ester (7.5 g, 22.23 mmol) in DCE (80 mL) were added mCPBA (7.67 g, 44.5 mmol) and 4,4′-thiobis(6-tert-butyl-m-cresol) (0.797 g, 2.22 mmol). The reaction mixture was then heated to 90° C. overnight. Then was concentrated. The crude residue was diluted in CH2Cl2 (200 mL) and washed with an aq. solution of Na2S2O5 5% and with a sat. aq. solution of NaHCO3. The organic layer was dried (Na2SO4), filtered and concentrated. The crude residue was purified by flash column chromatography on silica gel (c-hexane/EtOAc 10:0 to 8:2) give (1S,2S,5S)-6-oxa-3-aza-bicyclo[3.1.0]hexane-2,3-dicarboxylic acid dibenzyl ester: MS (UPLC/MS): 354 [M+H]+, tR (HPLC conditions b): 2.24 min and (1S,2S,5R)-6-oxa-3-aza-bicyclo[3.1.0]hexane-2,3-dicarboxylic acid dibenzyl ester: MS (UPLC/MS): 354 [M+H]+, tR (HPLC conditions b): 2.15 min.

reactant | (S)-2,5-dihydro-pyrrole-1,2-dicarboxylic acid dibenzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C=CC1)C(=O)OCC1=CC=CC=C1 | C20H19NO4
reactant | (S)-2,5-dihydro-pyrrole-1,2-dicarboxylic acid dibenzyl ester | 22.23 mmol, 7.5 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C=CC1)C(=O)OCC1=CC=CC=C1 | C20H19NO4
reactant | mCPBA | 44.5 mmol, 7.67 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 4,4′-thiobis(6-tert-butyl-m-cresol) | 2.22 mmol, 0.797 g | S(C=1C(=CC(=C(C1)C(C)(C)C)O)C)C=1C(=CC(=C(C1)C(C)(C)C)O)C | C22H30O2S
solvent | DCE | 80 mL | ClCCCl | C2H4Cl2
product | (1S,2S,5S)-6-oxa-3-aza-bicyclo[3.1.0]hexane-2,3-dicarboxylic acid dibenzyl ester | C(C1=CC=CC=C1)OC(=O)[C@@H]1[C@@H]2O[C@H]2CN1C(=O)OCC1=CC=CC=C1 | C20H19NO5
